US08067445B2
Step 2: {6-Methoxy-2′-[(methoxycarbonylmethyl-amino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid
Glycine methyl ester hydrochloride (0.057 g, 0.44 mmol) and sodium acetate (0.038 g, 0.44 mmol) were combined in a flask. (2′-Formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid (0.099 g, 0.29 mmol) in MeOH (3 mL) was added, followed by sodium cyanoborohydride (0.029 g, 0.44 mmol), and the reaction was stirred at room temperature for 3.5 hours. Once no starting material was seen by analytical LCMS, the mixture was diluted with CH2Cl2 and H2O. The organic layer was separated, dried over MgSO4, filtered, and concentrated to give the title compound.

reactant | Glycine methyl ester hydrochloride | 0.44 mmol, 0.057 g | Cl.COC(CN)=O
reactant | sodium acetate | 0.44 mmol, 0.038 g | C(C)(=O)[O-].[Na+]
reactant | (2′-Formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid | 0.29 mmol, 0.099 g | C(=O)C1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)CC(=O)O | C17H13F3O4
reactant | sodium cyanoborohydride | 0.44 mmol, 0.029 g | C(#N)[BH3-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | {6-Methoxy-2′-[(methoxycarbonylmethyl-amino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid | COC1=CC=C(C=C1C1=C(C=C(C=C1)C(F)(F)F)CNCC(=O)OC)CC(=O)O | C20H20F3NO5
